US05891909
c) 3-[5-Methyl-3-(2-trifluoromethoxyphenylsulfonyloxy)phenoxy]propionaldehyde
Sulfur trioxide pyridine complex (720 mg, 4.5 mmol) was added to a solution of 3-[5-methyl-3-(2-trifluoromethoxyphenylsulfonyloxy)phenoxy]propanol (610 mg, 1.5 mmol), as prepared in the preceding step, N,N-diisopropylethylamine (0.6 mL, 4.7 mmol) and anhydrous dimethyl sulfoxide (0.3 mL, 4.2 mmol) in anhydrous dichloromethane (15 mL). The reaction mixture was stirred at ambient temperature for 1 hour and then quenched with 10% aqueous citric acid (50 mL). The mixture was extracted into dichloromethane (3×50 mL), and the dichloromethane solution was washed with 10% aqueous citric acid (40 mL) and dried over Na2SO4. After removing the solvent in vacuo, the residue was purified by flash column chromatography (CH2Cl2) to give the title compound as a colorless oil (480 mg, 79%). 1H-NMR (300 MHz, CDCl3) δ 9.83 (s, 1H), 7.96 (d, J=7.9 Hz, 1H), 7.73 (t, J=8.2 Hz, 1H), 7.49 (d, J=8.3 Hz, 1H), 7.41 (t, J=8.2 Hz, 1H), 6.62 (s, 1H), 6.54 (s, 1H), 6.47 (s, 1H), 4.20 (t, J=6.1 Hz, 2H), 2.87 (t, J=6.1, 2H), 2.26 (s, 3H).

reactant | 3-[5-methyl-3-(2-trifluoromethoxyphenylsulfonyloxy)phenoxy]propanol | 1.5 mmol, 610 mg | CC=1C=C(C=C(OCCCO)C1)OS(=O)(=O)C1=C(C=CC=C1)OC(F)(F)F | C17H17F3O6S
reactant | N,N-diisopropylethylamine | 4.7 mmol, 0.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethyl sulfoxide | 4.2 mmol, 0.3 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-[5-Methyl-3-(2-trifluoromethoxyphenylsulfonyloxy)phenoxy]propionaldehyde | 480 mg, 79% | CC=1C=C(C=C(OCCC=O)C1)OS(=O)(=O)C1=C(C=CC=C1)OC(F)(F)F | C17H15F3O6S
